US05654307
To a mixture of 4-aminopyridine (2 g, 21.24 mmol), potassium hydroxide (3.57 g, 63.72 mmol), water (10 mL), and 2-methyl-2-propanol (4 mL) on ice is added di-t-butyl-dicarbonate (6.95 g, 31.87 mmol). The resulting biphasic solution is stirred at 25° C. for 1 week, then water (20 mL) is added. The solution is extracted with 1X CH2Cl2 and 2X EtOAc. The organic layer is dried (MgSO4) and concentrated under reduced pressure to give 4-(N-t-butoxycarbonylamino)pyridine (4.08 g, 99%). 1H NMR (DMSO) δ 9.84 (1H, s), 8.35 (2H, d, J=6 Hz), 7.44 (2H, d, J=7 Hz), 1.49 (9H, s).

reactant | 4-aminopyridine | 21.24 mmol, 2 g | NC1=CC=NC=C1 | C5H6N2
reactant | potassium hydroxide | 63.72 mmol, 3.57 g | [OH-].[K+]
reactant | di-t-butyl-dicarbonate | 31.87 mmol, 6.95 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 20 mL | O | H2O
solvent | 2-methyl-2-propanol | 4 mL | CC(C)(C)O | C4H10O
solvent | water | 10 mL | O | H2O
product | 4-(N-t-butoxycarbonylamino)pyridine | 4.08 g, 99% | C(C)(C)(C)OC(=O)NC1=CC=NC=C1 | C10H14N2O2
